US09193694B2
To a solution of 2-(4-bromophenyl)acetonitrile (1.0 g, 5.10 mmol) and 1,4-dibromobutane (0.67 ml, 5.6 mmol) in THF (10 ml) was added potassium bis(trimethylsilyl) amide (2.23 g, 11.2 mmol) and tetra-n-butylammonium bromide (164 mg, 0.51 mmol). The mixture was stirred for 2 h and then quenched with 1N HCl. Ethyl acetate was added, the layers separated and the organic layer was washed with water and brine. Drying, solvent evaporation and flash chromatography (silica gel, 20% EtOAc/hexanes) gave 1-(4-bromophenyl)cyclopentanecarbonitrile.

reactant | 2-(4-bromophenyl)acetonitrile | 5.10 mmol, 1.0 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | 1,4-dibromobutane | 5.6 mmol, 0.67 ml | BrCCCCBr | C4H8Br2
reactant | potassium bis(trimethylsilyl) amide | 11.2 mmol, 2.23 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium bromide | 0.51 mmol, 164 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-bromophenyl)cyclopentanecarbonitrile | BrC1=CC=C(C=C1)C1(CCCC1)C#N | C12H12BrN
